US04053601
A cold solution of 2-fluoro-6-methoxylithiobenzene in ether was added to a cold dilute benzene solution of β-carbomethoxypropionyl chloride and the resulting complex was decomposed with ammonium chloride solution to give methyl 3-(2-fluoro-6-methoxybenzoyl)propionate.

reactant | 2-fluoro-6-methoxylithiobenzene | FC1=C(C(=CC=C1)OC)[Li]
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | β-carbomethoxypropionyl chloride | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | methyl 3-(2-fluoro-6-methoxybenzoyl)propionate | FC1=C(C(=O)CCC(=O)OC)C(=CC=C1)OC | C12H13FO4
